US05061720
4-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]-3-methoxybenzeneacetic acid ethyl ester.
A mixture of 40.5 g (0.141 mole) of 4-(3-chloropropoxy)-3-methoxybenzeneacetic acid ethyl ester and 27.2 g (0.144 mole) of potassium phthalimide (98%, Aldrich) in 300 mL of dimethylformamide was stirred and heated at reflux for 5 h, then was stirred at ambient temperature overnight. The solvent was evaporated under reduced pressure to give 52.3 g (93%) of a gummy residue which solidified upon standing. An analytical sample, mp 70°-72° C., was prepared from ethyl ether-petroleum ether (30°-60° C.) as a white solid.

reactant | 4-(3-chloropropoxy)-3-methoxybenzeneacetic acid ethyl ester | 0.141 mole, 40.5 g | C(C)OC(CC1=CC(=C(C=C1)OCCCCl)OC)=O | C14H19ClO4
reactant | potassium phthalimide | 0.144 mole, 27.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 4-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]-3-methoxybenzeneacetic acid ethyl ester | 52.3 g, 93% | C(C)OC(CC1=CC(=C(C=C1)OCCCN1C(C2=CC=CC=C2C1=O)=O)OC)=O | C22H23NO6
